US05256679
To a mixture of S,N-dimethyl-N'-nitroisothiourea (0.5 g), CH3CN (20 ml) and potassium carbonate (0.93 g) was added a solution of phenylacetyl chloride (1.04 g) in CH3CN (2 ml) dropwise at room temperature over 10 minutes under stirring. After stirring for 3 hours, insolubles were filtered off and the filtrate was concentrated in vacuo. The resulting residue was applied to column chromatography on silica gel. The column was eluted with hexaneacetone (2:1) to afford 0.54 g of S,N-dimethyl-N'-nitro-N-phenylacetylisothiourea as an oil.

reactant | S,N-dimethyl-N'-nitroisothiourea | 0.5 g | CSC(NC)=N[N+](=O)[O-] | C3H7N3O2S
reactant | potassium carbonate | 0.93 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenylacetyl chloride | 1.04 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | CH3CN | 2 ml | CC#N | C2H3N
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | S,N-dimethyl-N'-nitro-N-phenylacetylisothiourea | 0.54 g | CSC(N(C(CC1=CC=CC=C1)=O)C)=N[N+](=O)[O-] | C11H13N3O3S
